US04659365
To 60 ml of an ethanol solution containing 10 g (42.6 mmol) of 2-nitro-3-(2,2,2-trifluoroethoxy)toluene, 1 g of 5 wt% Pd-carbon catalyst, and catalytic reduction was performed at atmospheric pressure and room temperature. After performing thin-layer chromatography to confirm that all the starting material had been consumed, the catalyst was filtered off and the filtrate was concentrated to provide 8.7 g of 2-methyl-6-(2,2,2-trifluoroethoxy)aniline as an oil.

reactant | 2-nitro-3-(2,2,2-trifluoroethoxy)toluene | 42.6 mmol, 10 g | [N+](=O)([O-])C1=C(C=CC=C1OCC(F)(F)F)C | C9H8F3NO3
catalyst | Pd carbon | [Pd].[C]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-methyl-6-(2,2,2-trifluoroethoxy)aniline | 8.7 g | CC1=C(N)C(=CC=C1)OCC(F)(F)F | C9H10F3NO
